US09328134B2
Iodine (0.36 g, 14.4 mmol, 1.1 equiv) dissolved in dry DCM (20 mL) was added to a solution of (((2S,3S,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride (1.0 g, 12.9 mmol, 1.0 equiv) in dry DCM (30 mL). The reaction mixture was stirred at room temperature for 16 hours and then quenched with saturated aqueous sodium thiosulfate solution (50 mL). The biphasic mixture was separated and then the organic layer was washed with saturated aqueous sodium chloride solution (10 mL) and then with water (10 mL). The organic layer was then dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The material thus obtained was purified by silica gel chromatography, eluting with 30% EtOAc in petroleum ether, to give (2R,3R,4S,5S,6S)-3,4,5-tris(benzyloxy)-2-((benzyloxy)methyl)-6-(iodomethyl)tetrahydro-2H-pyran as a colorless oil (0.7 g, 82%). 1H NMR (300 MHz, CDCl3) δ 7.44-7.22 (m, 18H), 7.17 (dd, J=6.6, 3.0 Hz, 2H), 5.09 (d, J=11.3 Hz, 1H), 4.92-4.67 (m, 4H), 4.67-4.47 (m, 3H), 4.21 (dd, J=2.8, 1.1 Hz, 1H), 3.90 (t, J=9.5 Hz, 1H), 3.76 (dd, J=11.0, 1.9 Hz, 1H), 3.71-3.60 (m, 2H), 3.57 (t, J=6.9 Hz, 1H), 3.53-3.45 (m, 1H), 3.35-3.24 (m, 2H). ESI (M+H2O) 682.2; calc for C35H37IO5 664.2.

reactant | Iodine | 14.4 mmol, 0.36 g, 1.1 equiv | II | I2
reactant | (((2S,3S,4S,5R,6R)-3,4,5-tris(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)mercury(II) chloride | 12.9 mmol, 1.0 g, 1.0 equiv | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C[Hg]Cl
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R,4S,5S,6S)-3,4,5-tris(benzyloxy)-2-((benzyloxy)methyl)-6-(iodomethyl)tetrahydro-2H-pyran | 0.7 g, 82% | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CI)COCC1=CC=CC=C1 | C35H37IO5
